US08440689B2
C. Methyl 2-(1H-indazol-6-ylamino)-6-((1R,2S)-2-aminocyclohexylamino)-4-cyanonicotinate
A solution of methyl 2-(1H-indazol-6-ylamino)-6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyanonicotinate (110 mg, 0.218 mmol) and TFA (2 mL, 26.9 mmol) in DCM (1 mL) was stirred at room temperature for 3 h. Following reaction, the mixture was concentrated in vacuo to give the title compound, which was used in the next step without further purification.

reactant | methyl 2-(1H-indazol-6-ylamino)-6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyanonicotinate | 0.218 mmol, 110 mg | N1N=CC2=CC=C(C=C12)NC1=C(C(=O)OC)C(=CC(=N1)N[C@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C)C#N | C26H31N7O4
reactant | TFA | 26.9 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(1H-indazol-6-ylamino)-6-((1R,2S)-2-aminocyclohexylamino)-4-cyanonicotinate | N1N=CC2=CC=C(C=C12)NC1=C(C(=O)OC)C(=CC(=N1)N[C@H]1[C@H](CCCC1)N)C#N | C21H23N7O2
